US07534788B2
Step 3: 2-(1-Hydroxy-2-methyl-propyl)-5-methoxy-4-methyl-phenol
The above prepared 2-hydroxy-4-methoxy-5-methyl-benzaldehyde (1.97 g, 11.86 mmol) was dissolved in 30 mL of abs. THF and treated at −15° C. with iPrMgCl (14.8 mL of 2M [THF], 2.5 eq.) and the mixture kept at this temperature for 0.5 h. Careful pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents left 2.45 g of the title compound as white crystals, almost perfectly pure according to TLC and NMR.

reactant | 2-hydroxy-4-methoxy-5-methyl-benzaldehyde | 11.86 mmol, 1.97 g | OC1=C(C=O)C=C(C(=C1)OC)C | C9H10O3
reactant | iPrMgCl | 2M, 14.8 mL, 2.5 eq. | C(C)(C)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1-Hydroxy-2-methyl-propyl)-5-methoxy-4-methyl-phenol | OC(C(C)C)C1=C(C=C(C(=C1)C)OC)O | C12H18O3
